US04464366
2.3 g of 3-acetoxymethyl-7β-{(2R)-2-[4-((2R)-2-amino-2-carboxyethoxycarbonylamino)-phenyl]-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)-acetamido}-3-cephem-4-carboxylic acid sodium salt and 1.16 g of 1-(2-dimethylaminoethyl)-5-mercapto-1H-tetrazole are dissolved in 12 ml of twice-distilled and degassed water. The solution is then adjusted to a pH of 6.2 with 1N aqueous NaOH and then stirred at 65° for 4 hours under a nitrogen atmosphere. It is then cooled, adjusted to a pH of 5 with 1N HCl and introduced into 600 ml of ethanol. The resulting precipitate is filtered with suction, washed with alcohol and ether and dried. The crude product is then separated over a column of 100 g of silylated silica gel (Opty-Up C 12; ANTEC AG, CH-4431 Bennwil) and 40 ml fractions are taken. Fractions 1-13 are eluted with H2O/acetonitrile (97:3), fractions 14-20 with H2O/acetonitrile (93:7), fractions 21-28 with H2O/acetonitrile (9:1) and the later fractions with H2O/acetonitrile (4:1). By concentrating by evaporation and reprecipitating from H2O/ethanol fractions 33-35, 3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-ylthiomethyl]-7β-{(2R)-2-[4-((2R)-2-amino-2-carboxyethoxycarbonylamino)-phenyl]-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)-acetamido}-3-cephem-4-carboxylic acid is obtained. Decomposition from 165°. [α]D20 =+34°±1° (0.67% in H2O). IR: 3400 (shoulder), 3280 (wide), 1770, 1720, 1680, 1612, 1515 cm-1 (Nujol).

reactant | 3-acetoxymethyl-7β-{(2R)-2-[4-((2R)-2-amino-2-carboxyethoxycarbonylamino)-phenyl]-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)-acetamido}-3-cephem-4-carboxylic acid sodium salt | 2.3 g | [Na+].C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC([C@H](NC(=O)N2C(C(N(CC2)CC)=O)=O)C2=CC=C(C=C2)NC(=O)OC[C@H](C(=O)O)N)=O)=O
reactant | 1-(2-dimethylaminoethyl)-5-mercapto-1H-tetrazole | 1.16 g | CN(CCN1N=NN=C1S)C | C5H11N5S
product | 3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-ylthiomethyl]-7β-{(2R)-2-[4-((2R)-2-amino-2-carboxyethoxycarbonylamino)-phenyl]-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)-acetamido}-3-cephem-4-carboxylic acid | CN(CCC(C=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC([C@H](NC(=O)N2C(C(N(CC2)CC)=O)=O)C2=CC=C(C=C2)NC(=O)OC[C@H](C(=O)O)N)=O)=O)SC2=NN=NN2)C | C32H40N12O11S2
